US07655666B2
A mixture of concentrated nitric acid (0.49 mL) and concentrated sulfuric acid (3.9 mL) was cooled to −20° C. and 2-acetylamino-4-trifluoromethyl-benzoic acid methyl ester (2.10 g, 8.04 mmol) was added portionwise. The mixture was allowed to warm slowly to r.t. and was then heated to 45° C. for 30 min. The mixture was poured onto ice and the white precipitate was filtered off. The white solid was then dissolved in MeOH (8 mL) and this solution was treated with sulfuric acid (0.8 mL) and heated to reflux for 45 min. The mixture was concentrated in vacuo and was then taken up in EtOAc, washed twice with aqueous potassium hydrogencarbonate, once with brine, dried (Na2SO4), filtered and concentrated in vacuo. The crude product was purified by column chromatography (silica gel 60, toluene/EtOAc 96:4) affording pale yellow crystals that were recrystallized in EtOAc to provide 2-amino-5-nitro-4-trifluoromethyl-benzoic acid methyl ester (116 mg, 0.44 mmol, 5%) as a white solid, m.p. 175-177° C., 1H-NMR (DMSO-d6, 400 MHz) 8.59 (s, 1H), 8.04 (br s, 2H), 7.40 (s, 1H), 3.88 (s, 3H).

reactant | nitric acid | 0.49 mL | [N+](=O)(O)[O-] | HNO3
reactant | sulfuric acid | 3.9 mL | S(O)(O)(=O)=O | H2O4S
reactant | 2-acetylamino-4-trifluoromethyl-benzoic acid methyl ester | 8.04 mmol, 2.10 g | COC(C1=C(C=C(C=C1)C(F)(F)F)NC(C)=O)=O | C11H10F3NO3
product | 2-amino-5-nitro-4-trifluoromethyl-benzoic acid methyl ester | 0.44 mmol, 116 mg, 5% | COC(C1=C(C=C(C(=C1)[N+](=O)[O-])C(F)(F)F)N)=O | C9H7F3N2O4
